US09216173B2
A suspension of 5-((1R,2S)-2-aminocyclohexylamino)-3-(5-methyl-7,8-dihydroquinolin-2-ylamino)picolinonitrile (19 mg, 0.051 mmol) and potassium trimethylsilanolate (98 mg, 0.76 mmol) in 1,4-dioxane (1 mL) was heated to 100° C. in an oil bath for 3 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was diluted with DMSO, filtered, and purified by reverse phase HPLC (acetonitrile/water with 0.1% TFA, linear gradient) to yield 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(5-methyl-7,8-dihydroquinolin-2-yl)amino]pyridine-2-carboxamide. MS ESI calc'd. for C22H29N6O [M+H]+ 393. found 393.

reactant | 5-((1R,2S)-2-aminocyclohexylamino)-3-(5-methyl-7,8-dihydroquinolin-2-ylamino)picolinonitrile | 0.051 mmol, 19 mg | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC=2CCC=C(C2C=C1)C | C22H26N6
reactant | potassium trimethylsilanolate | 0.76 mmol, 98 mg | C[Si]([O-])(C)C.[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(5-methyl-7,8-dihydroquinolin-2-yl)amino]pyridine-2-carboxamide | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C(=O)N)NC1=NC=2CCC=C(C2C=C1)C | C22H28N6O
